US06849647B1
Triethylamine (206 mg, 2.04 mmol) was added to a THF (6 ml) solution of 3-amino-2,4-bis(methylthio)-6-methylpyridine (341 mg, 1.70 mmol), and 4-bromobutanoyl chloride (379 mg, 2.04 mmol) was then slowly added thereto dropwise while being cooled with ice. The mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with water, and then extracted with ethyl acetate. The organic layer was washed with water and then with a saturated aqueous solution of sodium chloride, and dried over sodium sulfate. Subsequently, the solvent was distilled off, and the resulting crude product was purified through silica gel chromatography (silica gel 75 g, eluent-hexane:acetone=5:1→3:1) to obtain 390 mg (yield 66%) of 4-bromo-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]butanamide as a colorless crystal (melting point: 139 to 140° C.).

reactant | Triethylamine | 2.04 mmol, 206 mg | C(C)N(CC)CC | C6H15N
reactant | THF | 6 ml | C1CCOC1 | C4H8O
reactant | 3-amino-2,4-bis(methylthio)-6-methylpyridine | 1.70 mmol, 341 mg | NC=1C(=NC(=CC1SC)C)SC | C8H12N2S2
reactant | 4-bromobutanoyl chloride | 2.04 mmol, 379 mg | BrCCCC(=O)Cl | C4H6BrClO
solvent | water | O | H2O
product | 4-bromo-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]butanamide | 390 mg, yield 66% | BrCCCC(=O)NC=1C(=NC(=CC1SC)C)SC | C12H17BrN2OS2
